US06239131B1
Preparation of (+)-1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
(+)-1-tert-Butylcarbonylmethyl-2-oxo-3-[(2S)-[2-(N-phenylthioureido)-3-phenylpropionyl]amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (3.24 g) was dissolved in trifluoroacetic acid (40 ml), the solution was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, neutralized with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(chloroform:methanol=20:1), to thereby obtain 1.44 g of the titled compound.

reactant | (+)-1-tert-Butylcarbonylmethyl-2-oxo-3-[(2S)-[2-(N-phenylthioureido)-3-phenylpropionyl]amino]-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 3.24 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)N(C(=S)N)C2=CC=CC=C2)=O)=O | C38H41N5O3S
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (+)-1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.44 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2=CC=CC=C2)N)=O | C22H27N3O2
